* File: NO4X1.pex.netlist.pex
* Created: Mon Jun  5 13:15:04 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NO4X1%D_VDD 1 4 11 12 17 21 22 24 25 30 31 32 33 41 42 43
c68 41 0 0.11202f
c69 37 0 0.0467475f
c70 36 0 0.0467475f
c71 35 0 0.0366819f
c72 33 0 0.0244106f
c73 32 0 0.0129236f
c74 31 0 0.0736929f
c75 30 0 0.0824007f
c76 25 0 0.0994532f
c77 24 0 0.118969f
c78 22 0 0.0336158f
c79 21 0 0.0299662f
c80 12 0 0.631045f
c81 11 0 0.0985899f
c82 4 0 0.792903f
c83 1 0 0.35653f
r84 34 41 0.122778
r85 34 35 0.0519666
r86 32 33 0.066022
r87 30 43 0.0566667
r88 30 31 0.17
r89 26 37 0.0231002
r90 25 37 0.0225187
r91 24 42 0.0560138
r92 24 25 0.184167
r93 23 32 0.034
r94 22 42 0.0556395
r95 22 23 0.184167
r96 21 33 0.0500053
r97 20 31 0.0500053
r98 20 21 0.155833
r99 13 36 0.0231002
r100 12 37 0.0231002
r101 11 36 0.0225187
r102 11 35 0.2125
r103 4 36 0.0231002
r104 1 26 0.051
r105 1 12 0.17
r106 1 17 0.11475
r107 1 17 0.15725
r108 1 13 0.1275
r109 1 4 0.0935
.ends

.subckt PM_NO4X1%out1 3 4 5 7 8 9 10 12 14 16 20 21 22 26 28 29 32 34 41 43 46
+ 48 51 53 58
c102 58 0 0.0677109f
c103 53 0 0.376394f
c104 51 0 0.149766f
c105 48 0 0.0409675f
c106 46 0 0.0261171f
c107 43 0 0.0161176f
c108 41 0 0.159934f
c109 34 0 0.0256908f
c110 32 0 0.0717526f
c111 29 0 0.25705f
c112 28 0 0.0431809f
c113 26 0 0.0292586f
c114 22 0 0.0560808f
c115 21 0 0.0712464f
c116 20 0 0.0441731f
c117 16 0 0.314225f
c118 14 0 0.0985248f
c119 10 0 0.242953f
c120 9 0 0.0760794f
c121 8 0 0.233865f
c122 5 0 0.169685f
c123 4 0 0.10641f
c124 3 0 0.0958334f
r125 51 58 0.0920833
r126 47 53 16.4141
r127 46 48 0.0519666
r128 46 47 7
r129 38 41 0.2975
r130 34 48 0.141667
r131 32 44 0.0894004
r132 31 34 0.0474919
r133 31 32 0.262083
r134 30 43 0.00935391
r135 29 44 0.00992823
r136 29 30 0.757917
r137 28 58 0.00499195
r138 27 43 0.0359928
r139 27 28 0.290417
r140 26 43 0.0359928
r141 25 26 0.085
r142 21 25 0.0474919
r143 21 22 0.19125
r144 20 22 0.0474919
r145 20 42 0.085
r146 15 53 15.1515
r147 15 16 108.333
r148 14 53 7.51418
r149 13 14 37.5
r150 10 16 13.9682
r151 10 12 25
r152 8 13 13.9682
r153 8 9 54.1667
r154 5 9 16.8998
r155 5 7 33.3333
r156 4 42 0.0519666
r157 4 41 0.0661332
r158 3 38 0.0519666
.ends

.subckt PM_NO4X1%D_GND 1 6 7 8 9 11 15 19 28 31 33 34 38 42
c53 42 0 0.0943888f
c54 39 0 0.0467475f
c55 38 0 0.45618f
c56 34 0 0.0688943f
c57 33 0 0.0467343f
c58 31 0 0.359825f
c59 28 0 0.0732718f
c60 20 0 0.0467475f
c61 19 0 0.51193f
c62 15 0 0.0820451f
c63 11 0 0.0843938f
c64 9 0 0.0623757f
c65 7 0 0.0675213f
c66 6 0 0.0742769f
c67 1 0 0.345078f
r68 38 39 0.0231002
r69 37 39 0.0231002
r70 31 33 0.0231002
r71 30 33 0.0231002
r72 19 20 0.0231002
r73 18 20 0.0231002
r74 16 39 0.0225187
r75 16 42 0.155833
r76 15 34 0.0211726
r77 14 33 0.0225187
r78 14 15 0.155833
r79 12 21 0.0216719
r80 12 28 0.31875
r81 11 21 0.0216719
r82 10 20 0.0225187
r83 10 11 0.155833
r84 9 42 0.0519666
r85 8 34 0.0191226
r86 7 28 0.0519666
r87 6 21 0.0425
r88 1 37 0.04675
r89 1 38 0.17425
r90 1 30 0.2295
r91 1 31 0.1275
r92 1 18 0.19975
r93 1 19 0.15725
.ends

.subckt PM_NO4X1%out2 2 5 8 13 15 16 17 19 21 27 29 32 36 38
c93 38 0 0.107161f
c94 36 0 0.161753f
c95 32 0 0.161955f
c96 29 0 0.0610969f
c97 27 0 0.032541f
c98 21 0 4.33749e-20
c99 19 0 0.0262049f
c100 17 0 0.0561508f
c101 16 0 0.259288f
c102 15 0 0.0776123f
c103 13 0 0.196617f
c104 8 0 0.759386f
c105 5 0 0.22701f
c106 2 0 0.0596174f
r107 36 38 15.2843
r108 36 37 7
r109 32 37 0.0971429
r110 28 34 9.42888
r111 27 29 0.0519666
r112 27 28 7
r113 21 29 0.304583
r114 19 21 0.0474919
r115 19 25 0.085
r116 16 34 8.0819
r117 15 16 25
r118 11 17 2.75115
r119 11 13 37.5
r120 9 17 10.5861
r121 9 38 33.3333
r122 8 17 10.5861
r123 7 15 14.7074
r124 7 8 258.333
r125 3 34 6.74013
r126 3 5 50
r127 2 25 0.0519666
.ends

.subckt PM_NO4X1%OR 2 7 10 13 14 15 16 22 28 32 35 39 42 43 47
c64 47 0 0.0599429f
c65 43 0 0.230304f
c66 42 0 0.678185f
c67 39 0 0.187746f
c68 32 0 0.15723f
c69 28 0 0.0387408f
c70 22 0 0.0432318f
c71 16 0 0.0665059f
c72 15 0 0.0120986f
c73 14 0 0.0581385f
c74 13 0 0.0155068f
c75 10 0 0.263918f
c76 2 0 0.0678534f
r77 38 39 6.94444
r78 35 47 0.0519666
r79 32 43 15.22
r80 32 42 15.22
r81 31 32 7
r82 28 31 0.0519444
r83 26 38 5.55556
r84 25 26 7
r85 22 25 0.0377778
r86 16 28 0.0216719
r87 16 47 0.17
r88 14 22 0.0216719
r89 14 15 0.269167
r90 13 15 0.0474919
r91 13 21 0.085
r92 8 39 6.3741
r93 8 10 60.4167
r94 7 43 45.8333
r95 3 38 6.3741
r96 3 42 239.583
r97 2 21 0.0519666
.ends

.subckt PM_NO4X1%Out 2 8 9 16 19
c19 19 0 0.355941f
c20 16 0 0.115102f
c21 9 0 0.246587f
c22 8 0 0.1078f
c23 2 0 0.101781f
r24 16 19 0.0562216
r25 10 19 0.672917
r26 9 14 0.474583
r27 8 10 0.0566524
r28 8 9 0.0495691
r29 2 14 0.0519666
.ends

.subckt PM_NO4X1%B 3 5 7 9 11 14
c26 14 0 0.354856f
c27 11 0 0.0541388f
c28 7 0 0.301498f
c29 5 0 0.161879f
c30 3 0 0.41337f
r31 14 17 30.8642
r32 11 14 7
r33 7 9 75
r34 6 17 6.25408
r35 5 7 13.9682
r36 5 6 31.25
r37 1 14 15.3039
r38 1 3 104.167
.ends

.subckt PM_NO4X1%A 3 9 11 12 16 18 21
c40 21 0 0.115878f
c41 18 0 0.0182813f
c42 16 0 0.171642f
c43 12 0 0.384563f
c44 11 0 0.0640839f
c45 9 0 0.646434f
c46 3 0 0.216143f
r47 16 22 15.219
r48 16 21 15.219
r49 16 18 7
r50 12 13 28.5724
r51 11 12 69.4576
r52 9 22 185.417
r53 5 11 14.7074
r54 5 21 37.5
r55 1 13 2.19119
r56 1 3 37.5
.ends

.subckt PM_NO4X1%C 1 3 5 6 8 10 11 13
c45 13 0 0.0172897f
c46 11 0 0.188762f
c47 10 0 0.0639724f
c48 8 0 0.620926f
c49 6 0 0.281694f
c50 5 0 0.0664148f
c51 1 0 0.207089f
r52 13 16 7
r53 10 11 38.8758
r54 6 16 15.5305
r55 6 8 185.417
r56 5 16 44.2488
r57 4 10 14.7074
r58 4 5 25
r59 1 11 14.7074
r60 1 3 33.3333
.ends

.subckt PM_NO4X1%D 1 3 5 8 10 11 12 15
c46 15 0 0.0167881f
c47 12 0 0.101502f
c48 11 0 0.270366f
c49 10 0 0.392926f
c50 8 0 0.363772f
c51 5 0 0.094831f
c52 1 0 0.211455f
r53 15 18 7
r54 12 13 18.5185
r55 10 18 15.566
r56 10 11 75
r57 6 11 16.0714
r58 6 8 91.6667
r59 5 18 62.8221
r60 4 13 0.129719
r61 4 5 35.4167
r62 1 12 0.129719
r63 1 3 35.4167
.ends

