* File: NO5X1.pex.netlist.pex
* Created: Mon Jun  5 13:15:38 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NO5X1%D_VDD 1 4 9 10 17 18 23 36 37 38
c32 38 0 0.0774642f
c33 37 0 0.0819839f
c34 36 0 0.119711f
c35 32 0 0.0467475f
c36 28 0 0.0467475f
c37 23 0 0.10284f
c38 18 0 0.555569f
c39 17 0 0.105709f
c40 10 0 0.624411f
c41 9 0 0.116473f
c42 4 0 0.223837f
c43 1 0 0.497797f
r44 38 49 0.0519666
r45 36 42 0.0517445
r46 24 32 0.0231002
r47 23 32 0.0225187
r48 23 49 0.162917
r49 18 32 0.0231002
r50 16 37 0.0517445
r51 16 17 0.219583
r52 11 28 0.0231002
r53 9 28 0.0225187
r54 9 42 0.162917
r55 4 28 0.0231002
r56 1 17 0.0225187
r57 1 10 0.0231002
r58 1 19 0.0231002
r59 1 24 0.119
r60 1 18 0.238
r61 1 19 0.24225
r62 1 10 0.11475
r63 1 11 0.153
r64 1 4 0.068
.ends

.subckt PM_NO5X1%D_GND 1 6 7 8 9 20 23 27 30 34 37 39 42 45
c51 46 0 0.0467475f
c52 45 0 0.332611f
c53 42 0 0.0790527f
c54 39 0 0.0467475f
c55 37 0 0.320189f
c56 34 0 0.0791117f
c57 31 0 0.0467475f
c58 30 0 0.340111f
c59 27 0 0.0791117f
c60 24 0 0.0467475f
c61 23 0 0.204224f
c62 20 0 0.109666f
c63 9 0 0.0605202f
c64 8 0 0.0634258f
c65 7 0 0.060951f
c66 6 0 0.0980076f
c67 1 0 0.538608f
r68 45 46 0.0231002
r69 44 46 0.0231002
r70 37 39 0.0231002
r71 36 39 0.0231002
r72 30 31 0.0231002
r73 29 31 0.0231002
r74 23 24 0.0231002
r75 22 24 0.0231002
r76 16 46 0.0225187
r77 16 42 0.155833
r78 14 39 0.0225187
r79 14 34 0.155833
r80 12 31 0.0225187
r81 12 27 0.155833
r82 10 24 0.0225187
r83 10 20 0.155833
r84 9 42 0.0519666
r85 8 34 0.0519666
r86 7 27 0.0519666
r87 6 20 0.0519666
r88 1 44 0.1955
r89 1 45 0.1615
r90 1 36 0.1445
r91 1 37 0.2125
r92 1 29 0.0935
r93 1 30 0.1275
r94 1 22 0.17
r95 1 23 0.051
.ends

.subckt PM_NO5X1%Out 2 6 8 9 11 15
c18 15 0 0.100089f
c19 11 0 0.0989568f
c20 9 0 0.208531f
c21 8 0 0.0907029f
c22 6 0 0.0498464f
r23 15 16 0.0236111
r24 8 10 0.0519666
r25 8 9 0.0519666
r26 6 16 0.0216719
r27 6 10 0.198333
r28 3 11 0.0230476
r29 3 9 0.417917
r30 2 11 0.0182599
.ends

.subckt PM_NO5X1%out1 3 4 9 13 16 17 18 21 22 24 25 26 27 29 30 38 44 45 46 49
+ 53 56 58
c120 58 0 0.105101f
c121 56 0 0.370716f
c122 53 0 0.162034f
c123 46 0 0.267608f
c124 45 0 0.135749f
c125 44 0 0.0221682f
c126 38 0 0.0435702f
c127 30 0 0.0142613f
c128 29 0 0.0163688f
c129 27 0 0.047078f
c130 26 0 4.477e-19
c131 25 0 0.100176f
c132 24 0 0.0214426f
c133 22 0 0.107304f
c134 21 0 0.0928544f
c135 18 0 0.0596076f
c136 17 0 0.0731534f
c137 16 0 0.0376477f
c138 13 0 0.36707f
c139 9 0 0.462972f
c140 3 0 0.0781268f
r141 49 58 0.03825
r142 45 57 15.2843
r143 45 56 15.2843
r144 44 46 0.0519666
r145 44 45 7
r146 39 53 6.94444
r147 39 50 4.16667
r148 38 41 0.0613889
r149 38 39 7
r150 29 30 0.0471777
r151 28 29 0.034
r152 27 41 0.0216719
r153 27 28 0.198333
r154 25 30 0.034
r155 25 26 0.311667
r156 24 26 0.0474919
r157 23 24 0.120417
r158 21 23 0.0474919
r159 21 22 0.205417
r160 20 58 0.025958
r161 20 46 1.52292
r162 17 18 0.34
r163 16 18 0.0474919
r164 16 34 0.085
r165 11 53 6.3741
r166 11 13 100
r167 9 57 125
r168 5 50 6.3741
r169 5 56 135.417
r170 4 22 0.119534
r171 4 17 0.119534
r172 3 34 0.0519666
.ends

.subckt PM_NO5X1%out2 2 4 5 6 7 9 10 11 12 14 16 18 24 26 29 30 33
c70 33 0 0.100859f
c71 30 0 0.210479f
c72 26 0 0.047345f
c73 24 0 0.0184306f
c74 18 0 0.0232684f
c75 16 0 0.0290536f
c76 12 0 0.196587f
c77 11 0 0.544843f
c78 10 0 0.23207f
c79 7 0 0.168259f
c80 6 0 0.060737f
c81 5 0 0.184552f
c82 4 0 0.179182f
c83 2 0 0.0645076f
r84 32 33 7
r85 30 32 20.5177
r86 29 33 0.113333
r87 24 26 0.0519666
r88 24 25 7
r89 18 26 0.240833
r90 16 18 0.0474919
r91 16 22 0.085
r92 12 25 22.5549
r93 12 14 37.5
r94 10 25 15.2379
r95 10 11 197.917
r96 7 30 4.84696
r97 7 9 25
r98 5 11 13.9682
r99 5 6 37.5
r100 4 30 10.9983
r101 3 6 13.9682
r102 3 4 62.5
r103 2 22 0.0519666
.ends

.subckt PM_NO5X1%OR 2 4 5 7 8 10 11 14 15 19 21 22 27 28 38 39 46 47
c71 47 0 0.0496028f
c72 46 0 0.211205f
c73 39 0 0.21623f
c74 33 0 0.0786275f
c75 28 0 0.0255222f
c76 27 0 0.043245f
c77 22 0 0.572527f
c78 21 0 0.108442f
c79 19 0 0.0464676f
c80 15 0 0.100802f
c81 14 0 0.30805f
c82 12 0 0.097787f
c83 11 0 0.368135f
c84 8 0 0.292609f
c85 5 0 0.265725f
c86 4 0 0.74174f
r87 38 47 0.0519666
r88 38 46 0.0519666
r89 32 39 0.116875
r90 32 33 0.0253804
r91 28 30 0.10625
r92 24 27 0.0519666
r93 24 25 7
r94 22 33 0.0253804
r95 21 22 1.05542
r96 19 33 0.0197579
r97 19 47 0.255
r98 18 28 0.00499195
r99 18 46 1.03417
r100 15 30 0.00499195
r101 15 27 0.325833
r102 14 25 6.98411
r103 13 14 52.0833
r104 11 13 13.9682
r105 11 12 85.4167
r106 8 10 29.1667
r107 5 25 6.98411
r108 5 7 45.8333
r109 4 12 13.9682
r110 3 8 13.9682
r111 3 4 227.083
r112 2 21 0.0520915
.ends

.subckt PM_NO5X1%E 1 3 5 8 12 18 22
c38 22 0 0.222606f
c39 18 0 0.0376703f
c40 12 0 0.157101f
c41 8 0 0.5773f
c42 5 0 0.298415f
c43 1 0 0.213272f
r44 16 22 19.4444
r45 16 18 7
r46 10 12 29.1667
r47 6 22 6.3741
r48 6 8 156.25
r49 5 22 6.3741
r50 4 12 1.46822
r51 4 5 102.083
r52 1 10 1.46822
r53 1 3 37.5
.ends

.subckt PM_NO5X1%B 5 9 10 11 13 14 16 18
c35 18 0 0.151085f
c36 14 0 0.133455f
c37 13 0 0.168695f
c38 11 0 0.0919784f
c39 10 0 0.21124f
c40 5 0 0.586356f
r41 14 19 15.2843
r42 14 18 15.2843
r43 13 16 0.100462
r44 13 14 7
r45 11 18 54.1667
r46 10 11 18.7188
r47 9 10 37.5
r48 5 19 204.167
.ends

.subckt PM_NO5X1%A 3 7 13 16
c34 16 0 0.387161f
c35 13 0 0.0256567f
c36 7 0 0.61135f
c37 3 0 0.516279f
r38 15 16 33.7838
r39 11 16 18.4275
r40 11 13 7
r41 5 16 5.17465
r42 5 7 164.583
r43 1 15 5.17465
r44 1 3 147.917
.ends

.subckt PM_NO5X1%C 3 8 11 15 18 20 23 26
c49 26 0 0.261121f
c50 23 0 0.150879f
c51 20 0 0.0119192f
c52 18 0 0.0870497f
c53 15 0 0.21243f
c54 11 0 0.275851f
c55 8 0 0.116218f
c56 3 0 0.444284f
r57 23 27 15.22
r58 23 26 15.22
r59 20 23 7
r60 18 26 85.4167
r61 17 18 21.4286
r62 13 15 45.8333
r63 11 17 54.1667
r64 8 15 1.46822
r65 8 27 33.3333
r66 1 13 1.46822
r67 1 3 125
.ends

.subckt PM_NO5X1%D 1 3 5 8 11 14 18 21 28
c44 28 0 0.184517f
c45 21 0 0.0155759f
c46 18 0 0.189814f
c47 14 0 0.18463f
c48 11 0 0.0903909f
c49 8 0 0.593679f
c50 5 0 0.0760306f
c51 1 0 0.32091f
r52 24 28 11.1111
r53 21 24 7
r54 16 18 41.6667
r55 12 14 45.8333
r56 11 18 1.46822
r57 10 28 6.3741
r58 10 11 33.3333
r59 6 28 6.3741
r60 6 8 164.583
r61 5 14 1.46822
r62 4 16 1.46822
r63 4 5 25
r64 1 12 1.46822
r65 1 3 75
.ends

