* File: NO6X1.pex.netlist.pex
* Created: Mon Jun  5 13:16:13 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NO6X1%D_VDD 1 5 6 13 14 21 29 35 36 37
c38 37 0 0.0721154f
c39 36 0 0.0662144f
c40 35 0 0.0892428f
c41 29 0 0.0467475f
c42 21 0 0.113951f
c43 14 0 0.62552f
c44 13 0 0.0985627f
c45 6 0 0.708156f
c46 5 0 0.302173f
c47 1 0 0.475989f
r48 37 49 0.0566888
r49 36 45 0.0519666
r50 35 41 0.0519666
r51 21 49 0.184167
r52 15 29 0.0231002
r53 13 29 0.0225187
r54 13 45 0.2125
r55 6 29 0.0231002
r56 5 41 0.155833
r57 1 21 0.0225187
r58 1 14 0.0231002
r59 1 22 0.0231002
r60 1 5 0.0286694
r61 1 7 0.0227885
r62 1 22 0.10625
r63 1 14 0.11475
r64 1 15 0.17425
r65 1 6 0.18275
r66 1 7 0.20825
.ends

.subckt PM_NO6X1%OR 2 7 10 11 13 16 19 20 21 22 25 26 27 28 36 37 41 42 44 47
c103 47 0 0.0840933f
c104 44 0 0.331325f
c105 42 0 0.0485322f
c106 37 0 0.147494f
c107 36 0 0.027125f
c108 28 0 0.0420482f
c109 27 0 0.0132317f
c110 26 0 0.176453f
c111 25 0 0.0138067f
c112 22 0 0.152621f
c113 21 0 0.0547763f
c114 20 0 0.0621379f
c115 19 0 0.634131f
c116 16 0 0.145622f
c117 11 0 0.277428f
c118 10 0 0.305866f
c119 7 0 0.353979f
c120 2 0 0.127916f
r121 53 54 0.0661111
r122 42 53 0.0141667
r123 41 47 0.0138436
r124 37 45 15.2843
r125 37 44 15.2843
r126 36 38 0.023743
r127 36 37 7
r128 29 53 0.0216719
r129 28 38 0.0214457
r130 28 29 0.113333
r131 26 54 0.0216719
r132 26 27 1.03417
r133 24 27 0.0474919
r134 24 25 0.141667
r135 23 47 0.0226088
r136 22 25 0.0474919
r137 22 23 0.595
r138 20 47 0.110749
r139 20 21 0.14875
r140 19 21 0.0474919
r141 18 30 0.0216719
r142 18 19 1.1475
r143 14 16 18.75
r144 11 13 27.0833
r145 10 16 1.46822
r146 9 11 13.9682
r147 9 10 97.9167
r148 7 45 83.3333
r149 3 14 1.46822
r150 3 44 114.583
r151 2 30 0.0377778
.ends

.subckt PM_NO6X1%D_GND 1 7 8 9 10 11 15 22 25 32 34 36 40 53
c62 53 0 0.549857f
c63 40 0 0.202792f
c64 37 0 0.0467475f
c65 36 0 0.371056f
c66 34 0 0.0467475f
c67 32 0 0.424482f
c68 26 0 0.0467475f
c69 25 0 0.455816f
c70 22 0 0.0966117f
c71 19 0 0.114243f
c72 15 0 0.0914079f
c73 11 0 0.120608f
c74 10 0 0.0626757f
c75 9 0 0.219135f
c76 7 0 0.0813045f
c77 1 0 0.208042f
r78 53 56 0.0255
r79 36 37 0.0231002
r80 35 37 0.0231002
r81 32 34 0.0231002
r82 31 34 0.0231002
r83 25 26 0.0231002
r84 24 26 0.0231002
r85 18 56 0.025958
r86 18 19 0.155833
r87 16 37 0.0225187
r88 16 40 0.453333
r89 14 34 0.0225187
r90 14 15 0.155833
r91 12 26 0.0225187
r92 12 22 0.155833
r93 11 19 0.0519666
r94 10 40 0.0519666
r95 9 15 0.0521413
r96 8 9 0.163761
r97 7 22 0.0519666
r98 1 56 0.0425
r99 1 53 0.204
r100 1 35 0.23375
r101 1 36 0.12325
r102 1 31 0.1955
r103 1 32 0.1615
r104 1 24 0.22525
r105 1 25 0.13175
.ends

.subckt PM_NO6X1%out2 3 4 5 7 8 9 12 15 18 19 20 22 23 25 26 35 40 42
c77 42 0 0.0976769f
c78 40 0 0.189903f
c79 35 0 0.0736429f
c80 26 0 0.140646f
c81 25 0 0.0369547f
c82 23 0 0.0174971f
c83 22 0 0.0756856f
c84 20 0 0.0543517f
c85 19 0 0.142163f
c86 18 0 0.0761915f
c87 15 0 0.375772f
c88 12 0 0.322802f
c89 9 0 0.0766571f
c90 8 0 0.138503f
c91 5 0 0.160322f
c92 4 0 0.106432f
r93 40 43 12.5
r94 40 42 15.2843
r95 40 41 7
r96 35 41 0.113333
r97 26 38 15.2843
r98 26 37 15.2843
r99 25 27 0.0242857
r100 25 26 7
r101 22 23 0.132178
r102 21 27 0.0205282
r103 20 31 0.0230039
r104 20 21 0.198333
r105 18 19 22.2091
r106 16 18 13.9334
r107 16 42 29.1667
r108 15 19 14.7074
r109 15 38 135.417
r110 12 37 81.25
r111 8 43 6.3741
r112 8 9 45.8333
r113 5 9 13.9682
r114 5 7 25
r115 4 31 0.0137097
r116 4 23 0.155376
r117 3 22 0.0409529
.ends

.subckt PM_NO6X1%out1 3 4 6 7 9 11 12 14 16 17 20 21 22 23 24 25 29 43 45 50 53
+ 58
c135 58 0 0.346563f
c136 53 0 0.0988968f
c137 50 0 0.274132f
c138 43 0 0.160732f
c139 29 0 0.172698f
c140 25 0 0.0285896f
c141 24 0 0.0211549f
c142 23 0 0.0426394f
c143 22 0 0.0832547f
c144 21 0 0.0661177f
c145 20 0 0.0937373f
c146 17 0 0.442562f
c147 16 0 0.285924f
c148 12 0 0.161459f
c149 11 0 0.183681f
c150 7 0 0.251793f
c151 6 0 0.655853f
c152 3 0 0.0708344f
r153 52 53 7
r154 50 52 38.7466
r155 45 53 0.113333
r156 43 56 15.2843
r157 42 43 7
r158 40 58 12.6121
r159 39 40 7
r160 29 46 5.55556
r161 28 29 7
r162 25 28 0.0236111
r163 23 42 0.0613889
r164 23 24 0.085
r165 22 33 0.141638
r166 21 24 0.034
r167 21 22 0.247917
r168 20 33 0.0196845
r169 20 37 0.255
r170 18 25 0.0216719
r171 17 39 0.184266
r172 17 18 1.73542
r173 16 58 6.26747
r174 16 56 104.167
r175 12 50 4.06478
r176 12 14 25
r177 11 50 11.0966
r178 10 58 25.2242
r179 10 11 58.3333
r180 7 9 31.25
r181 6 46 6.3741
r182 5 7 20
r183 5 6 231.25
r184 4 33 0.029755
r185 3 37 0.0519666
.ends

.subckt PM_NO6X1%Out 2 6 8 9 16 20
c18 20 0 0.139405f
c19 9 0 0.222951f
c20 8 0 0.102247f
c21 6 0 0.233333f
c22 2 0 0.0983504f
r23 16 20 0.03825
r24 9 14 0.417917
r25 8 10 0.0519666
r26 8 9 0.0519666
r27 6 20 0.025958
r28 6 10 0.432083
r29 2 14 0.0519666
.ends

.subckt PM_NO6X1%F 4 5 6 9 11 13 14 15 18 21 24
c54 24 0 0.204914f
c55 21 0 0.164586f
c56 18 0 0.0151335f
c57 15 0 0.141819f
c58 14 0 0.171451f
c59 11 0 0.405025f
c60 9 0 0.217886f
c61 6 0 0.0704129f
c62 5 0 0.210411f
c63 4 0 0.0728455f
r64 21 25 15.2678
r65 21 24 15.2678
r66 18 21 7
r67 14 16 29.9927
r68 14 15 22.2091
r69 11 13 104.167
r70 7 16 2.15236
r71 7 9 37.5
r72 5 11 13.9682
r73 5 6 47.9167
r74 4 6 13.9682
r75 4 25 29.1667
r76 1 15 14.7074
r77 1 24 72.9167
.ends

.subckt PM_NO6X1%D 3 7 10 16
c38 16 0 0.307523f
c39 10 0 0.0122891f
c40 7 0 0.414025f
c41 3 0 0.230266f
r42 16 17 17.7985
r43 13 16 10.9529
r44 10 13 7
r45 5 17 6.5454
r46 5 7 137.5
r47 1 16 6.5454
r48 1 3 39.5833
.ends

.subckt PM_NO6X1%C 1 3 6 11 12 14 17 19
c42 19 0 0.283011f
c43 17 0 0.141097f
c44 14 0 0.0626933f
c45 12 0 0.457489f
c46 11 0 0.0900147f
c47 1 0 0.222855f
r48 17 20 15.2843
r49 17 19 15.2843
r50 16 17 7
r51 14 16 0.0705199
r52 11 12 17.6176
r53 11 20 33.3333
r54 7 19 100
r55 6 12 102.083
r56 1 7 13.9682
r57 1 3 25
.ends

.subckt PM_NO6X1%A 2 3 5 6 8 11 16 18 21 22 23
c52 23 0 0.0678816f
c53 22 0 0.154172f
c54 21 0 0.0537236f
c55 18 0 0.046525f
c56 11 0 0.192566f
c57 6 0 0.154872f
c58 3 0 0.374892f
c59 2 0 0.420302f
r60 22 27 8.75146
r61 22 25 4.37573
r62 21 23 0.0519666
r63 21 22 7
r64 16 18 0.0472222
r65 13 18 0.0216719
r66 13 23 0.304583
r67 9 11 33.3333
r68 6 11 1.46822
r69 6 8 25
r70 3 27 5.78955
r71 3 5 102.083
r72 2 25 5.78955
r73 1 9 1.46822
r74 1 2 158.333
.ends

.subckt PM_NO6X1%E 1 3 4 6 7 8 10 13 18
c47 18 0 0.275182f
c48 13 0 0.0455104f
c49 10 0 0.571609f
c50 8 0 0.0695406f
c51 7 0 0.133164f
c52 4 0 0.176273f
c53 1 0 0.400872f
r54 16 18 33.871
r55 13 16 7
r56 10 11 23.2666
r57 9 18 4.58712
r58 9 10 158.333
r59 7 11 2.45885
r60 7 8 45.8333
r61 4 18 11.0177
r62 4 6 25
r63 1 8 13.9682
r64 1 3 102.083
.ends

.subckt PM_NO6X1%B 3 5 7 8 13 17 18 21
c50 21 0 0.29801f
c51 18 0 0.0369087f
c52 17 0 0.0470679f
c53 13 0 0.0183078f
c54 8 0 0.123204f
c55 5 0 0.179188f
c56 3 0 0.4822f
r57 21 22 23.0947
r58 17 18 0.0519666
r59 14 21 7.21709
r60 13 15 0.0463636
r61 13 14 7
r62 11 18 0.155833
r63 9 15 0.0181392
r64 8 11 0.063519
r65 8 9 0.502917
r66 5 22 5.91428
r67 5 7 25
r68 1 21 5.91428
r69 1 3 160.417
.ends

